US03989738
3,5-Di-tert alkyl-4-hydroxybenzylpyridinium salts are reacted under basic conditions with compounds containing active methylene groups to form phenolic antioxidants. For example, 3,5-di-tert.butyl-4-hydroxybenzylpyridinium chloride is reacted with 2-nitropropane to produce 1,1-dimethyl-2-(3,5-di tert.butyl-4-hydroxyphenyl)-1-nitroethane.

reactant | 3,5-di-tert.butyl-4-hydroxybenzylpyridinium chloride | [Cl-].C(C)(C)(C)C=1C=C(C[N+]2=CC=CC=C2)C=C(C1O)C(C)(C)C
reactant | 2-nitropropane | [N+](=O)([O-])C(C)C | C3H7NO2
product | 1,1-dimethyl-2-(3,5-di tert.butyl-4-hydroxyphenyl)-1-nitroethane | CC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)([N+](=O)[O-])C | C18H29NO3
